US04398029
To a stirred solution of 1-ethyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxy-1-piperidinyl)-4-oxoquinoline-3-carboxylic acid (235 mg), sodium hydroxide (26.7 mg), and water (3 ml), a solution of silver nitrate (113 mg) and water (2 ml) was added. The precipitate was filtered off, washed with water, and dried to give 1-ethyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxy-1-piperidinyl)-4-oxoquinoline-3-carboxylic acid silver salt (284 mg), mp 181°-184° C. (decomp.).

reactant | 1-ethyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxy-1-piperidinyl)-4-oxoquinoline-3-carboxylic acid | 235 mg | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCC(CC1)O)F)=O)C(=O)O | C17H18F2N2O4
reactant | sodium hydroxide | 26.7 mg | [OH-].[Na+]
reactant | silver nitrate | 113 mg | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 2 ml | O | H2O
solvent | water | 3 ml | O | H2O
product | 1-ethyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxy-1-piperidinyl)-4-oxoquinoline-3-carboxylic acid silver salt | 284 mg | [Ag+].C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCC(CC1)O)F)=O)C(=O)[O-] | InChI=1S/C17H18F2N2O4.Ag/c1-2-20-8-11(17(24)25)16(23)10-7-12(18)15(13(19)14(10)20)21-5-3-9(22)4-6-21;/h7-9,22H,2-6H2,1H3,(H,24,25);/q;+1/p-1
